US07238699B2
3-Chloromethyl-2-methyl-8-(2,4,6-trimethyl-phenyl)-8H-1,3a,7,8-tetraaza-cyclopenta[α]indene:6, scheme 2: (J)
Thionyl chloride (0.164 mL, 2.25 mmol) was added at 0° C. to a solution of [2-methyl-8-(2,4,6-trimethyl-phenyl)-8H-1,3a,7,8-tetraaza-cyclopenta[α]inden-3-yl]-methanol (0.36 g, 1.12 mmol) in CH2Cl2 (10 mL). After 2 h, solvents was removed and the title compound was obtained as a brownish oil (100% yield). Mass spec.: 335.24 (M−Cl+OMe+H)+.

reactant | Thionyl chloride | 2.25 mmol, 0.164 mL | S(=O)(Cl)Cl | Cl2OS
reactant | [2-methyl-8-(2,4,6-trimethyl-phenyl)-8H-1,3a,7,8-tetraaza-cyclopenta[α]inden-3-yl]-methanol | 1.12 mmol, 0.36 g | CC=1N=C2N(C=3C=CC=NC3N2C2=C(C=C(C=C2C)C)C)C1CO | C19H20N4O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-Chloromethyl-2-methyl-8-(2,4,6-trimethyl-phenyl)-8H-1,3a,7,8-tetraaza-cyclopenta[α]indene | ClCC1=C(N=C2N1C=1C=CC=NC1N2C2=C(C=C(C=C2C)C)C)C | C19H19ClN4
